US06838463B2
In 5 ml of tetrahydrofuran were dissolved 194 mg of 4-chloro-6-phenylpyrimidine and 68 mg of 2-propyn-1-ol, to which 50 mg of sodium hydride (60% in oil) was added with stirring at room temperature, followed by further stirring for 3 hours. The reaction mixture was then poured into water and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The resulting residue was subjected to silica gel column chromatography to give 190 mg of 4-phenyl-6-(2-propynyloxy)pyrimidine (the present compound (37)), m.p.: 65.1° C.

reactant | 4-chloro-6-phenylpyrimidine | 194 mg | ClC1=NC=NC(=C1)C1=CC=CC=C1 | C10H7ClN2
reactant | 2-propyn-1-ol | 68 mg | C(C#C)O | C3H4O
reactant | sodium hydride | 50 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-phenyl-6-(2-propynyloxy)pyrimidine | 190 mg | C1(=CC=CC=C1)C1=NC=NC(=C1)OCC#C | C13H10N2O
